US07709509B2
3.0 g 5-(Chloromethyl)-4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluormethyl)phenyl]-1,3-thiazole (synthesis is described in WO2002/067912) thiazole were dissolved in 100 ml dimethylformamide. 5.0 g of cesium carbonate and 1.53 g 2-Chloro-4-hydroxybenzonitrile were added and the mixture was stirred at room temperature overnight. Then 300 ml of ethylacetate were added, the mixture washed three times with saturated NaHCO3 solution and brine then dried over MgSO4. The solvent was removed in vacuo to obtain 4.1 g of crude 2-Chloro-4-[4-(tetrahydro-pyran-2-yloxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile as yellow oil. This material was used without further purification.

reactant | 5-(Chloromethyl)-4-[(tetrahydro-2H-pyran-2-yloxy)methyl]-2-[4-(trifluormethyl)phenyl]-1,3-thiazole | 3.0 g | ClCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1 | C17H17ClF3NO2S
reactant | thiazole | S1C=NC=C1 | C3H3NS
reactant | cesium carbonate | 5.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-Chloro-4-hydroxybenzonitrile | 1.53 g | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | ethylacetate | 300 ml | C(C)OC(C)=O | C4H8O2
product | 2-Chloro-4-[4-(tetrahydro-pyran-2-yloxymethyl)-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-benzonitrile | 4.1 g | ClC1=C(C#N)C=CC(=C1)OCC1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)COC1OCCCC1 | C24H20ClF3N2O3S
